US04167638
B. 5,6-Dimethoxy-2,4-dimethyl-8-(4-phthalimidopentylamino) quinoline.
A solution of 8-amino-5,6-dimethoxy-2,4-dimethylquinoline (20.0 g, 86 mmole), 1-iodo-4-phthalimidopentane (38.4 g, 112 mmole) and triethylamine (11.3 g, 112 mmole) in 2-ethoxyethanol (230 ml) was heated at reflux (135° C.) for 5 hr. After cooling, the solution was diluted with 5% aqueous sodium bicarbonate (0.5 l) and then extracted with methylene chloride (2× 250 ml). The combined extracts were washed with water (2× 250 ml) and brine (100 ml) and then dried (potassium carbonate). Filtration, then evaporation of the solvents, afforded a black tar. The tar was chromatographed over silica gel (0.7 kg) with benzene. The orange-brown material eluting first from the column was crystallized from ethanol (10% solution), affording 12.7 g (33%) of the title compound as orange plates, mp 141°-144°. Further recrystallization of a small amount gave an analytical sample with mp 144.5°-146.5°; the analysis was satisfactory after drying at 110° (the analysis corresponded to a hemihydrate after drying at 78°).

reactant | 8-amino-5,6-dimethoxy-2,4-dimethylquinoline | 86 mmole, 20.0 g | NC=1C=C(C(=C2C(=CC(=NC12)C)C)OC)OC | C13H16N2O2
reactant | 1-iodo-4-phthalimidopentane | 112 mmole, 38.4 g | ICCCC(C)N1C(C=2C(C1=O)=CC=CC2)=O | C13H14INO2
reactant | triethylamine | 112 mmole, 11.3 g | C(C)N(CC)CC | C6H15N
solvent | 2-ethoxyethanol | 230 ml | C(C)OCCO | C4H10O2
solvent | sodium bicarbonate | 0.5 l | C([O-])(O)=O.[Na+]
product | 5,6-Dimethoxy-2,4-dimethyl-8-(4-phthalimidopentylamino) quinoline | 12.7 g, 33% | COC1=C2C(=CC(=NC2=C(C=C1OC)NCCCC(C)N1C(C=2C(C1=O)=CC=CC2)=O)C)C | C26H29N3O4
